US05416089
Part A: 9-Phenylphenanthrene-1,10-dicarboxylic Anhydride
As described in example 14, the following compounds were prepared from dimethyl homophthalate and benzophenone:

reactant | dimethyl homophthalate | C(CC=1C(C(=O)OC)=CC=CC1)(=O)OC | C11H12O4
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
product | 9-Phenylphenanthrene-1,10-dicarboxylic Anhydride | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=2C=CC=C3C2C1C(=O)OC3=O | C22H12O3
